US09102591B2
3-chloro-N-((4,4-difluoro-1-(6-(trifluoromethyl)pyr idin-3-yl)cyclohexyl) methyl)-2-fluorobenzamide
From 3-chloro-2-fluorobenzoic acid and (4,4-difluoro-1-(6-(trifluoromethyl)pyridin-3-yl)cyclohexyl)methanamine. LCMS (MH+): m/z=433.2, tR (minutes, Method D)=0.83

reactant | 3-chloro-2-fluorobenzoic acid | ClC=1C(=C(C(=O)O)C=CC1)F | C7H4ClFO2
reactant | (4,4-difluoro-1-(6-(trifluoromethyl)pyridin-3-yl)cyclohexyl)methanamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CN)F | C13H15F5N2
product | 3-chloro-N-((4,4-difluoro-1-(6-(trifluoromethyl)pyr idin-3-yl)cyclohexyl) methyl)-2-fluorobenzamide | ClC=1C(=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C(F)(F)F)C=CC1)F | C20H17ClF6N2O
